US06852731B2
Ethyl 3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate
A 500 mL three-necked flask fitted with an overhead stirrer and argon inlet is charged with 21.9 g of ethyl 7-hydroxy-3-methylthieno[3,2-b]pyridine-6-carboxylate and 150 mL of DMF. The mixture is stirred while 25.5 g of powdered potassium carbonate is added in portions, then is cooled to 0° C. Iodomethane (15 mL) is added dropwise over 45 min, and the completed mixture is stirred vigorously and allowed to warm slowly as the ice in the bath melts. The following day, the mixture is diluted slowly with water to a final volume of 800 ml, and the resulting solid is filtered, washed well with water, and dried under vacuum to provide 17.2 g of the title compound as a brown crystalline solid. Flash chromatography of 12.2 g using 2-4% MeOH in CH2Cl2 affords 11.43 g of tan solid.

reactant | ethyl 7-hydroxy-3-methylthieno[3,2-b]pyridine-6-carboxylate | 21.9 g | OC1=C2C(=NC=C1C(=O)OCC)C(=CS2)C | C11H11NO3S
reactant | DMF | 150 mL | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 25.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | Iodomethane | 15 mL | IC | CH3I
solvent | water | O | H2O
product | Ethyl 3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate | 17.2 g | CC1=CSC2=C1N(C=C(C2=O)C(=O)OCC)C | C12H13NO3S
